
// Library name: adpll_sch
// Cell name: spd_x
// View name: schematic
MCS (VRAMP VBSPD_M VDD VDD) pch_svt_mac l=16n nfin=2 w=58n multi=1 nf=1 \
        sd=74n sa=90n sb=90n ploda1=16n ploda2=0 ploda3=0 plodb1=16n \
        plodb2=0 plodb3=0 nf_flag=1 smbt=1M smbb=1M dinsaflag=0 ppitch=0 \
        spot=103n spob=103n spotl1=103n spobl1=103n spotl2=103n \
        spobl2=103n spotr1=103n spobr1=103n spotr2=103n spobr2=103n
MIR (VBSPD_M VBSPD_M VDD VDD) pch_svt_mac l=16n nfin=2 w=58n multi=1 nf=1 \
        sd=74n sa=90n sb=90n ploda1=16n ploda2=0 ploda3=0 plodb1=16n \
        plodb2=0 plodb3=0 nf_flag=1 smbt=1M smbb=1M dinsaflag=0 ppitch=0 \
        spot=103n spob=103n spotl1=103n spobl1=103n spotl2=103n \
        spobl2=103n spotr1=103n spobr1=103n spotr2=103n spobr2=103n
MRST (VRAMP CK_RST VSS VSS) nch_svt_mac l=16.0n nfin=2 w=58.0n multi=1 \
        nf=32 sd=74.0n sa=90n sb=90n ploda1=16.0n ploda2=0 ploda3=0 \
        plodb1=16.0n plodb2=0 plodb3=0 nf_flag=1 smbt=1M smbb=1M \
        dinsaflag=0 ppitch=0 spot=103.00n spob=103.00n spotl1=103.00n \
        spobl1=103.00n spotl2=103.00n spobl2=103.00n spotr1=103.00n \
        spobr1=103.00n spotr2=103.00n spobr2=103.00n
MSMP (VRAMP CK_SMP VHOLD VSS) nch_svt_mac l=16.0n nfin=2 w=58.0n multi=1 \
        nf=8 sd=74.0n sa=90n sb=90n ploda1=16.0n ploda2=0 ploda3=0 \
        plodb1=16.0n plodb2=0 plodb3=0 nf_flag=1 smbt=1M smbb=1M \
        dinsaflag=0 ppitch=0 spot=103.00n spob=103.00n spotl1=103.00n \
        spobl1=103.00n spotl2=103.00n spobl2=103.00n spotr1=103.00n \
        spobr1=103.00n spotr2=103.00n spobr2=103.00n
CH (VHOLD VSS VSS) cfmom_wo_p80 dmflag=0 lr=1u multi=1 mxd_flag=0 nr=12 \
        n_mxa=2 shield=2 spm=3 stm=1 vapmod=2 grflag=1 gdis_t=185n \
        gdis_b=185n gdis_l=102n gdis_r=102n
CR0 (VRAMP VSS) capacitor c=30f
RREF (VBSPD_M VSS ) rhim l=38u w=450.0n multi=(1)

